US05444080
A mixture of 1-(2-chlorophenyl)methyl thiourea (3 g, 14.9 mmol) and propylbromide (13.5 g, 110 mmol) in acetonitrile (20 mL) was refluxed for 5 hours. The solvent was evaporated, the residue was dissolved in 200 mL of 50% water/ether and acidified with 48% hydrobromic acid solution. The two phases were separated, the aqueous layer was washed with ether and then the aqueous layer was basified with 10% sodium carbonate solution. The liberated product was extracted with diethyl ether, washed with water and brine, dried and concentrated to give 1-(2-chlorophenyl)methyl-2-propyl-2-thiopseudourea (2.82 g, 78%); mp 112°-114° C.

reactant | 1-(2-chlorophenyl)methyl thiourea | 14.9 mmol, 3 g | ClC1=C(C=CC=C1)CNC(=S)N | C8H9ClN2S
reactant | propylbromide | 110 mmol, 13.5 g | C(CC)Br | C3H7Br
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-(2-chlorophenyl)methyl-2-propyl-2-thiopseudourea | 2.82 g, 78% | ClC1=C(C=CC=C1)CNC(SCCC)=N | C11H15ClN2S
